US05118811
To a solution of 1-(3-aminopropyl)-2-oxopyrrolidine (570 mg) in methylene chloride (10 ml) were added triethylamine (0.67 ml) and 3-carbomethoxy propionylchloride (600 mg) in sequence under ice-cooling and the mixture was stirred for 0.5 hour. After 3.5 hours' stirring at room temperature, the reaction mixture was poured into ice water and extracted with chloroform. The organic layer was washed with 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and saturated brine in sequence, and dried over magnesium sulfate, followed by concentration. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 902 mg of 4-oxo-4-[3-(2-oxo-1-pyrrolidinyl)propylamino]butyric acid methyl ester.

reactant | 1-(3-aminopropyl)-2-oxopyrrolidine | 570 mg | NCCCN1C(CCC1)=O | C7H14N2O
reactant | triethylamine | 0.67 ml | C(C)N(CC)CC | C6H15N
reactant | 3-carbomethoxy propionylchloride | 600 mg | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-oxo-4-[3-(2-oxo-1-pyrrolidinyl)propylamino]butyric acid methyl ester | 902 mg | COC(CCC(NCCCN1C(CCC1)=O)=O)=O | C12H20N2O4
